US09371319B2
Preparation 78: 6-Bromo-1-(cyclopentylmethyl)-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine
Sodium hydride (60% in mineral oil, 10.8 mg, 0.271 mmol) was added to a solution of 6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine (Preparation 22, 50 mg, 0.180 mmol) in DMF (780 mL). The reaction mixture was then stirred for 15 minutes at room temperature before the addition of (bromomethyl)cyclopentane (44 mg, 0.271 mmol). The reaction mixture was then stirred overnight at room temperature and for 24 hours at 60° C. Sodium hydride (60% in mineral oil, 5 mg, 0.125 mmol) was added and the reaction was stirred for another 7 hours at 60° C. The reaction mixture was then diluted with water and EtOAc. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were dried (Na2SO4), filtered and concentrated under reduced pressure. The crude was purified via Biotage silica gel column chromatography eluting with (DCM/EtOAc 99/1 to 80/20) to afford the title product as a colourless oil (45 mg, 69%). 1H NMR (500 MHz, CDCl3) d 1.10-1.19 (m, 2H), 1.46-1.64 (m, 6H), 2.24-2.33 (m, 1H), 4.03 (s, 3H), 4.09 (d, J=7.6 Hz, 2H), 6.53 (d, J=0.9 Hz, 1H), 7.45 (t, J=0.9 Hz, 1H), 7.59 (s, 1H), 7.68 (s, 1H), 8.60 (d, J=0.9 Hz, 1H). LC (Method B)-MS (ESI, m/z) tR 3.03 min, 359 [(M+H+), 100%].

reactant | Sodium hydride | 0.271 mmol, 10.8 mg | [H-].[Na+]
reactant | 6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 0.180 mmol, 50 mg | BrC1=CC2=C(C=N1)C=C(N2)C=2C=NN(C2)C | C11H9BrN4
reactant | (bromomethyl)cyclopentane | 0.271 mmol, 44 mg | BrCC1CCCC1 | C6H11Br
reactant | Sodium hydride | 0.125 mmol, 5 mg | [H-].[Na+]
solvent | DMF | 780 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Bromo-1-(cyclopentylmethyl)-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 45 mg, 69% | BrC1=CC2=C(C=N1)C=C(N2CC2CCCC2)C=2C=NN(C2)C | C17H19BrN4
